US08623869B2
Step 5: tert-Butyl N-tert-butoxycarbonyl-N-[3-ethynyl-5-(4-isopropylsulfonylphenyl)pyrazin-2-yl]carbamate
tert-Butyl N-tert-butoxycarbonyl-N-[5-(4-isopropylsulfonylphenyl)-3-(2-trimethylsilylethynyl)pyrazin-2-yl]carbamate (42.6 g, 74.25 mmol) was dissolved/suspended in methanol (510 mL) and 2M aqueous sodium carbonate (425.8 mL, 851.6 mmol) was added to the rapidly stirred mixture. An oil separated out and more methanol (100 mL) was added to dissolve. The mixture was stirred at ambient temperature for 1 hour. The slurry was poured into a mixture of EtOAc/water (800 mL/1 L). The organic phase was separated and the aqueous extracted with EtOAc (2×250 mL). The combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was slurried in 5% EtOAc/Petroleum Ether and stirred for 90 minutes at ambient temperature. The precipitate was isolated by filtration, washed with Petroleum Ether and dried to give the sub-title product as a white solid (33.1 g, 89% Yield). 1H NMR (400.0 MHz, DMSO) δ 1.18 (d, 6H), 1.37 (s, 18H), 3.50 (sept, 1H), 4.99 (s, 1H), 8.03 (d, 2H), 8.44 (d, 2H) and 9.35 (s, 1H) ppm; MS (ES+) 502.1.

reactant | tert-Butyl N-tert-butoxycarbonyl-N-[5-(4-isopropylsulfonylphenyl)-3-(2-trimethylsilylethynyl)pyrazin-2-yl]carbamate | 74.25 mmol, 42.6 g | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C1=NC=C(N=C1C#C[Si](C)(C)C)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C28H39N3O6SSi
reactant | sodium carbonate | 851.6 mmol, 2M, 425.8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 510 mL | CO | CH4O
product | tert-Butyl N-tert-butoxycarbonyl-N-[3-ethynyl-5-(4-isopropylsulfonylphenyl)pyrazin-2-yl]carbamate | 33.1 g, 89% Yield | C(C)(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C1=NC=C(N=C1C#C)C1=CC=C(C=C1)S(=O)(=O)C(C)C | C25H31N3O6S
